US07179823B1
Lithium aluminium hydride (2.43 g) was added to a solution of methyl 6-phenyl-3-pyridinecarboxylate (14.00 g) in tetrahydrofuran (200 ml) at 0° C., which was stirred at room temperature for 30 minutes. Sodium sulfate decahydrate (22.50 g) was added to the reaction mixture, which was stirred at room temperature for 30 minutes. The precipitate was removed by filtration, and the filtrate was concentrated to obtain 6-phenyl-3-pyridylmethanol (11.63 g, yield 96%) as a pale yellow oily substance.

reactant | Lithium aluminium hydride | 2.43 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 6-phenyl-3-pyridinecarboxylate | 14.00 g | C1(=CC=CC=C1)C1=CC=C(C=N1)C(=O)OC | C13H11NO2
reactant | Sodium sulfate decahydrate | 22.50 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 6-phenyl-3-pyridylmethanol | 11.63 g, yield 96% | C1(=CC=CC=C1)C1=CC=C(C=N1)CO | C12H11NO
